US05028606
A solution of 4.25 parts of ethyl 3,4-dihydro-7-[1-(1H-imidazol-1-yl)-2-methylpropyl]-3-oxo-2-quinoxalinecarboxylate in 20 parts of a sodium hydroxide solution 1N was stirred for 4 hours at room temperature. The reaction mixture was treated with a diluted sulfuric acid solution to pH 5.5. After concentration, the residue was crystallized from pyridine. The product was filtered off and dried, yielding 1 part (24.6%) of 3,4-dihydro-7-[1-(1H-imidazol-1-yl)-2-methylpropyl]-3-oxo-2-quinoxalinecarboxylic acid; mp. 237.5° C. (comp. 129).

reactant | ethyl 3,4-dihydro-7-[1-(1H-imidazol-1-yl)-2-methylpropyl]-3-oxo-2-quinoxalinecarboxylate | N1(C=NC=C1)C(C(C)C)C1=CC=C2NC(C(=NC2=C1)C(=O)OCC)=O | C18H20N4O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,4-dihydro-7-[1-(1H-imidazol-1-yl)-2-methylpropyl]-3-oxo-2-quinoxalinecarboxylic acid | 24.6% | N1(C=NC=C1)C(C(C)C)C1=CC=C2NC(C(=NC2=C1)C(=O)O)=O | C16H16N4O3
